US07435815B2
p-Tolylamino-acetic acid tert-butyl ester
A solution of p-toluidine (200 mmol) in THF (500 mL) was treated with tert-butyl bromoacetate (220 mmol) and DIPEA (440 mmol) at RT. The reaction mixture was heated to reflux for 16 h and cooled to RT. Water (200 mL) and EE (500 mL) were added, the layers were separated and the aqueous layer was extracted twice with ethyl acetate (100 mL). The combined organic layers were washed with water and brine. The solvents were removed in vacuo and the residue (44 g) was used without further purification.

reactant | p-toluidine | 200 mmol | NC1=CC=C(C=C1)C | C7H9N
reactant | tert-butyl bromoacetate | 220 mmol | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | DIPEA | 440 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | 200 mL | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | p-Tolylamino-acetic acid tert-butyl ester | C(C)(C)(C)OC(CNC1=CC=C(C=C1)C)=O | C13H19NO2
